US06492366B1
Step 1: tert-Butyl 2-{3-[(5-cyano-1H-indol-3-yl)methyl]-1-pyrrolidinyl}ethyl-carbamate
Under an inert atmosphere, 47.3 mmol (10 g) of 3-[(3-pyrrolidinyl)methyl]-1H-indole-5-carbonitrile, 47.3 mmol (9.95 g) of the product described in Preparation B and 1.55 ml of 2-butanone are mixed together and then 47.3 mmol (4.45 g) of potassium hydrogen carbonate are added. The mixture is stirred at 80° C. for 2 hours. After hydrolysis and separating off, the organic phase is washed with saturated sodium chloride solution, dried over magnesium sulphate, filtered and concentrated. Purification is carried out by chromatography on silica, using a mixture of dichloromethane/methanol/ammonia 97/3/0.3 as eluant, to yield the expected product.

reactant | 3-[(3-pyrrolidinyl)methyl]-1H-indole-5-carbonitrile | 47.3 mmol, 10 g | N1CC(CC1)CC1=CNC2=CC=C(C=C12)C#N | C14H15N3
reactant | potassium hydrogen carbonate | 47.3 mmol, 4.45 g | C(O)([O-])=O.[K+]
solvent | 2-butanone | 1.55 ml | CC(CC)=O | C4H8O
product | tert-Butyl 2-{3-[(5-cyano-1H-indol-3-yl)methyl]-1-pyrrolidinyl}ethyl-carbamate | C(#N)C=1C=C2C(=CNC2=CC1)CC1CN(CC1)CCNC(OC(C)(C)C)=O | C21H28N4O2
